US04128658
Methylisocyanate (0.33 g) was added to a suspension of 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine, phthalhydrazide complex (2 g) in acetonitrile (50 ml). After 2 hr the solution was filtered and the filtrate evaporated to give an oil which was purified by column chromatography (silica/methanol) to give N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-methylurea. Analysis Found: C, 52.38; H, 7.61; N, 15.25. C12H21N3O2S.1/4H2O requires: C, 52.24; H, 7.76; N, 15.32%.

reactant | Methylisocyanate | 0.33 g | CN=C=O | C2H3NO
reactant | 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-methylurea | CN(C)CC1=CC=C(O1)CSCCNC(=O)NC | C12H21N3O2S
